US08629144B2
900 mg (3.67 mmol) of sodium difluoro(quinolin-6-yl)acetate was dissolved in acetonitrile (27 mL). 1.17 g (4.04 mmol) of tert-butyl 2-[6-(1-methyl-1H-pyrazol-4-yl)pyridazin-3-yl]hydrazinecarboxylate was added and 300 mg (4.41 mmol) of 1H-imidazole was added at once. 0.561 mL (7.71 mmol) of thionyl chloride was added over 5 minutes at room temperature. The mixture was stirred for 2 hours at room temperature, giving tert-butyl (2E)-2-{2-[difluoro(quinolin-6-yl)acetyl]-6-(1-methyl-1H-pyrazol-4-yl)pyridazin-3(2H)-ylidene}hydrazinecarboxylate. Then, 0.722 mL (11.0 mmol) of methanesulphonic acid was added at room temperature and stirred for 16 h. The resulting solids were filtered off under argon atmosphere, yielding 6-{1,1-difluoro-2-[(6E)-6-hydrazono-3-(1-methyl-1H-pyrazol-4-yl)pyridazin-1(6H)-yl]-2-oxoethyl}quinoline and used as such in the next step.

reactant | sodium difluoro(quinolin-6-yl)acetate | 3.67 mmol, 900 mg | FC(C(=O)[O-])(C=1C=C2C=CC=NC2=CC1)F.[Na+]
reactant | tert-butyl 2-[6-(1-methyl-1H-pyrazol-4-yl)pyridazin-3-yl]hydrazinecarboxylate | 4.04 mmol, 1.17 g | CN1N=CC(=C1)C1=CC=C(N=N1)NNC(=O)OC(C)(C)C | C13H18N6O2
reactant | 1H-imidazole | 4.41 mmol, 300 mg | N1C=NC=C1 | C3H4N2
reactant | thionyl chloride | 7.71 mmol, 0.561 mL | S(=O)(Cl)Cl | Cl2OS
solvent | acetonitrile | 27 mL | C(C)#N | C2H3N
product | tert-butyl (2E)-2-{2-[difluoro(quinolin-6-yl)acetyl]-6-(1-methyl-1H-pyrazol-4-yl)pyridazin-3(2H)-ylidene}hydrazinecarboxylate | FC(C(=O)N\1N=C(C=C/C1=N\NC(=O)OC(C)(C)C)C=1C=NN(C1)C)(C=1C=C2C=CC=NC2=CC1)F | C24H23F2N7O3
